### PR TITLE
[Merged by Bors] - feat(GroupTheory/Index): index of infimum

### PR DESCRIPTION
**Pull request by SnirBroshi**
A couple of small lemmas about `H ⊓ K`.

---
I noticed that the proof of `index_inf_le` shows an equality first, which seemed useful to extract.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/Index.lean [hunk 1]
```diff
@@ -352,6 +354,10 @@ theorem index_eq_card : H.index = Nat.card (G ⧸ H) :=
 theorem index_mul_card : H.index * Nat.card H = Nat.card G := by
   rw [mul_comm, card_mul_index]
 
+@[to_additive relIndex_mul_card]
+theorem relIndex_mul_card : H.relIndex K * Nat.card (H ⊓ K :) = Nat.card K := by
+  rw [← subgroupOf_map_subtype, card_subtype, relIndex, (H.subgroupOf K).index_mul_card]
```
Comment (tb65536) [inline Mathlib/GroupTheory/Index.lean]: Maybe slightly cleaner?
```suggestion
  simpa [mul_comm] using relIndex_inf_mul_relIndex ⊥ H K
```

File: Mathlib/GroupTheory/Index.lean [hunk 2]
```diff
@@ -425,13 +431,20 @@ lemma relIndex_inter_ne_zero {J K : Subgroup G} (hJK : J.relIndex K ≠ 0) (L :
     comap_map_eq_self_of_injective (subtype_injective L)]
   exact relIndex_comap_ne_zero _ hJK
 
+@[to_additive]
+theorem relIndex_inf : (H ⊓ K).relIndex L = H.relIndex (K ⊓ L) * K.relIndex L := by
+  rw [← inf_relIndex_right, inf_assoc, ← relIndex_mul_relIndex _ _ L inf_le_right inf_le_right,
+    inf_relIndex_right, inf_relIndex_right]
```
Comment (tb65536) [inline Mathlib/GroupTheory/Index.lean]: Looks like we already have this:
```suggestion
  exact (relIndex_inf_mul_relIndex H K L).symm
```

**Review by tb65536 — COMMENTED** [review]
Btw, here's another related golf in the file:
```
@[to_additive]
theorem relIndex_inf_ne_zero (hH : H.relIndex L ≠ 0) (hK : K.relIndex L ≠ 0) :
    (H ⊓ K).relIndex L ≠ 0 := by
  replace hH : H.relIndex (K ⊓ L) ≠ 0 := mt (relIndex_eq_zero_of_le_right inf_le_right) hH
  rwa [← relIndex_inf_mul_relIndex, mul_ne_zero_iff_right hK]
```

File: Mathlib/GroupTheory/Index.lean (hunk 2 above)
Comment (SnirBroshi) [reply Mathlib/GroupTheory/Index.lean]: Oops, nice catch!

File: Mathlib/GroupTheory/Index.lean [hunk 3]
```diff
@@ -15,6 +15,8 @@ public import Mathlib.GroupTheory.GroupAction.Quotient
 public import Mathlib.GroupTheory.QuotientGroup.Basic
 public import Mathlib.SetTheory.Cardinal.NatCard
 
+import Mathlib.Algebra.Group.Subgroup.Finite
```
Comment (tb65536) [inline Mathlib/GroupTheory/Index.lean]: This might not be necessary anymore?

**Review by tb65536 — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/GroupTheory/Index.lean (hunk 3 above)
Comment (j-loreaux) [reply Mathlib/GroupTheory/Index.lean]: indeed it is not

File: Mathlib/GroupTheory/Index.lean [hunk 4]
```diff
@@ -15,6 +15,8 @@ public import Mathlib.GroupTheory.GroupAction.Quotient
...
+
```
Comment (j-loreaux) [inline Mathlib/GroupTheory/Index.lean]:
```suggestion
```
